US07291641B2
405.1) [4-(10H-phenothiazin-2-yl)-1,3-thiazol-2-yl]methyl pivalate
This compound is prepared according to a protocol identical to that described for Stage 350.3 of Example 350, respectively using 2-(tert-butylcarbonyloxy)thioacetamide and 2-bromo-1-[10-(chloroacetyl)-10H-phenothiazin-2-yl]ethanone instead of intermediate 1.2 and bromo-1-(3,5-ditert-butyl-4-hydroxyphenyl)ethanone. The expected compound is obtained in the form of a greenish solid with a yield of 63.2%. Melting point: 120.0-122.0° C.

reactant | 2-(tert-butylcarbonyloxy)thioacetamide | C(C)(C)(C)C(=O)OCC(=S)N | C7H13NO2S
reactant | 2-bromo-1-[10-(chloroacetyl)-10H-phenothiazin-2-yl]ethanone | BrCC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CCl)=O | C16H11BrClNO2S
reactant | bromo-1-(3,5-ditert-butyl-4-hydroxyphenyl)ethanone | BrCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23BrO2
product | [4-(10H-phenothiazin-2-yl)-1,3-thiazol-2-yl]methyl pivalate | yield of 63.2% | C(C(C)(C)C)(=O)OCC=1SC=C(N1)C1=CC=2NC3=CC=CC=C3SC2C=C1 | C21H20N2O2S2
